US04988692
STEP C: N-(7-chloro-2,4-dioxo-1-methyl-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl)-1H-indole-2-carboxamide
A mixture of 1.58 g (5 mmoles) of 3-amino-2,4-dioxo-7-chloro-1-methyl-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine, 0.89 g of 2-indol carboxylic acid, 1.05 g of 1-ethyl-3-(3-dimethylamino)-propyl carbodiimide, 1.02 g of 1-hydroxy benzotriazole and 50 ml of dichloromethane was stirred at ambient temperature for 18 hours and the precipitate formed was separated and washed with dichloromethane to obtain 1.36 g of the expected product melting at about 280° C. (yield 59%)

reactant | 3-amino-2,4-dioxo-7-chloro-1-methyl-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | 5 mmoles, 1.58 g | NC1C(N(C2=C(N(C1=O)C)C=CC(=C2)Cl)C2=CC=CC=C2)=O | C16H14ClN3O2
reactant | 2-indol carboxylic acid | 0.89 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1-hydroxy benzotriazole | 1.02 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(7-chloro-2,4-dioxo-1-methyl-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl)-1H-indole-2-carboxamide | 1.36 g, yield 59% | ClC1=CC2=C(N(C(C(C(N2C2=CC=CC=C2)=O)NC(=O)C=2NC3=CC=CC=C3C2)=O)C)C=C1 | C25H19ClN4O3
